US06037367
Preparation of (+/-)-4-Amino-3-(3-cyclopentyloxy-4-methoxyphenyl)-1-phenyl-1-butyne hydrochloride
A solution of (+/-)-3-(3-cyclopentyloxy-4-methoxyphenyl)-3-phenylethynylpropionic acid (1.2 g, 3.3 mmol) in Me2CO (40 ml) was cooled to -15° and treated with Et3N (0.505 ml, 3.63 mmol) and then ethyl chloroformate (0.35 ml, 3.63 mmol), at such a rate so the temperature did not exceed -10°. The mixture was stirred at 0° for 15 minutes. A solution of NaN3 (470 mg, 7.25 mmol) in H2O (2 ml) was added dropwise to the cold solution, and stirring continued in the cold for 15 minutes. The reaction was diluted with H2O, and extracted with Et2O. The extracts were washed with H2O, and dried. The ether extract was slowly added to C6H5Me (100 ml) at 110°, and the solution was heated at 110° for 30 minutes, and the solvent was evaporated. The residue was dissolved in a mixture of dioxane (5 ml), H2O (3 ml), and conc. HCl (3 ml), refluxed for 10 minutes, cooled and the solid filtered. Recrystallization from a mixture of i-propanol and Et2O gave the titled compound as the HCl salt, 1.03 g (84%). mp 212-215°. NMR.

reactant | (+/-)-3-(3-cyclopentyloxy-4-methoxyphenyl)-3-phenylethynylpropionic acid | 3.3 mmol, 1.2 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC(=O)O)C#CC1=CC=CC=C1 | C23H24O4
reactant | Et3N | 3.63 mmol, 0.505 ml | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 3.63 mmol, 0.35 ml | ClC(=O)OCC | C3H5ClO2
reactant | NaN3 | 7.25 mmol, 470 mg | [N-]=[N+]=[N-].[Na+]
solvent | H2O | 2 ml | O | H2O
product | (+/-)-4-Amino-3-(3-cyclopentyloxy-4-methoxyphenyl)-1-phenyl-1-butyne hydrochloride | Cl.NCC(C#CC1=CC=CC=C1)C1=CC(=C(C=C1)OC)OC1CCCC1 | InChI=1S/C22H25NO2.ClH/c1-24-21-14-13-18(15-22(21)25-20-9-5-6-10-20)19(16-23)12-11-17-7-3-2-4-8-17;/h2-4,7-8,13-15,19-20H,5-6,9-10,16,23H2,1H3;1H
